US07825253B2
N2-(2-Methyl-benzofuran-7-yl)-N5-(5-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=384.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl)amine and 4-methyl-1H-imidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (2-methyl-1-benzofuran-7-yl)amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | 4-methyl-1H-imidazole-5-carbaldehyde | CC=1N=CNC1C=O | C5H6N2O
product | N2-(2-Methyl-benzofuran-7-yl)-N5-(5-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine | CC=1OC2=C(C1)C=CC=C2NC2=NC=1C=CC=C(C1C=C2)NCC=2NC=NC2C | C23H21N5O
